US09328099B2
1-(4-(Cyanomethyl)-1-((1-ethyl-1H-imidazol-2-yl)methyl)piperidin-4-yl)-3-((2-fluoropyridin-4-yl)amino)-1H-pyrazole-4-carboxamide
To a reaction vial was added 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-4) (0.020 g, 0.058 mmol), 1-ethyl-1H-imidazole-2-carbaldehyde (0.0072 g, 0.058 mmol), Na(OAc)3BH (0.062 g, 0.29 mmol), TFA (0.030 g, 0.26 mmol) suspended in DMF (0.97 mL). The reaction vessel was sealed and heated to 50° C. with stirring for 12 hours. The completed reaction was directly purified by reverse phase preparative HPLC (using a gradient elution of 0-95% ACN/water with 0.1% v/v NH4OH modifier) to afford the title compound, Example #22-1.

reactant | 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidinium trifluoroacetate | 0.058 mmol, 0.020 g | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC(=NC=C1)F
reactant | 1-ethyl-1H-imidazole-2-carbaldehyde | 0.058 mmol, 0.0072 g | C(C)N1C(=NC=C1)C=O | C6H8N2O
reactant | Na(OAc)3BH | 0.29 mmol, 0.062 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | TFA | 0.26 mmol, 0.030 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 0.97 mL | CN(C)C=O | C3H7NO
product | 1-(4-(Cyanomethyl)-1-((1-ethyl-1H-imidazol-2-yl)methyl)piperidin-4-yl)-3-((2-fluoropyridin-4-yl)amino)-1H-pyrazole-4-carboxamide | C(#N)CC1(CCN(CC1)CC=1N(C=CN1)CC)N1N=C(C(=C1)C(=O)N)NC1=CC(=NC=C1)F | C22H26FN9O
